US07858640B2
2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]propionic Acid
A solution of 2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]propionic acid methyl ester (0.092 g), tetrahydrofuran (2.0 mL) and 1.0 M aqueous lithium hydroxide solution (0.25 mL) was stirred at room temperature for 30 minutes. The tetrahydrofuran was removed under reduced pressure and pH of the residue was adjusted to 2 by the addition of 1.0 M aqueous hydrochloric acid. The mixture was extracted with ethyl acetate and the combined extracts washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the resulting solid washed with pentane to afford title compound, 0.080 g.

reactant | 2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]propionic acid methyl ester | 0.092 g | COC(C(C)OC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)C)=O | C22H21Cl2NO3
reactant | lithium hydroxide | 1.0 M, 0.25 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]propionic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OC(C(=O)O)C | C21H19Cl2NO3
